US07582673B2
To a solution of benzofuran (10 mmol) in dry THF (15 mL) at −40° C., n-BuLi (2.5 M in hexanes; 4.4 mL; 11 mmol) was added dropwise. The reaction mixture was stirred at −40° C. for 30-40 min. Sulfur dioxide gas was passed into the reaction mixture, keeping the tip of the needle just above the reaction mixture, for about 5-10 min. A white precipitate was formed. The reaction mixture was then brought to RT and the stirring was continued for 1 h, then the mixture was diluted with hexane (20 mL) to give benzofuran-2-sulfinic acid lithium salt as a white precipitate. The solid was filtered and dried in vacuo to afford the salt.

reactant | benzofuran | 10 mmol | O1C=CC2=C1C=CC=C2 | C8H6O
reactant | n-BuLi | 11 mmol, 2.5 M, 4.4 mL | [Li]CCCC
reactant | Sulfur dioxide | S(=O)=O | O2S
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | hexane | 20 mL | CCCCCC | C6H14
product | benzofuran-2-sulfinic acid lithium salt | [Li+].O1C(=CC2=C1C=CC=C2)S(=O)[O-] | InChI=1S/C8H6O3S.Li/c9-12(10)8-5-6-3-1-2-4-7(6)11-8;/h1-5H,(H,9,10);/q;+1/p-1
